US04263291
2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (syn isomer)(3.74 g) and 7-amino-3-methyl-3-cephem-4-carboxylic acid (4.3 g) were reacted according to similar manners to those of Examples 12 and 15 to give 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-methyl-3-cephem-4-carboxylic acid (syn isomer)(5.0 g), mp 111° to 116° C. (dec.).

reactant | 2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 3.74 g | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 4.3 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-methyl-3-cephem-4-carboxylic acid | 5.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)C=1N=NSC1 | C13H13N5O5S2
